US07842696B2
LiOH (180 mg, 4.3 mmol) was added to a stirred solution of 4-phenyl-1H-pyrrole-2-carboxylic acid ethyl ester (143 mg, 0.66 mmol) in THF:MeOH:H2O (3:1:1, 5 mL), and the resulting mixture was stirred at room temperature for 8 hrs. The reaction mixture was concentrated under reduced pressure to get the residue. Cold water was then added and acidified it with concentrated HCl, filtered the solid precipitated to afford 103 mg (83.06% yield) of 4-Phenyl-1H-pyrrole-2-carboxylic acid.

reactant | LiOH | 4.3 mmol, 180 mg | [Li+].[OH-]
reactant | 4-phenyl-1H-pyrrole-2-carboxylic acid ethyl ester | 0.66 mmol, 143 mg | C(C)OC(=O)C=1NC=C(C1)C1=CC=CC=C1 | C13H13NO2
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | THF MeOH H2O | 5 mL | C1CCOC1.CO.O
product | 4-Phenyl-1H-pyrrole-2-carboxylic acid | 103 mg, 83.06% yield | C1(=CC=CC=C1)C=1C=C(NC1)C(=O)O | C11H9NO2
